US09359340B2
60% NaH (1.07 g, 26.7 mmol) was added in 2 portions to a 0° C. solution of 2-(4-chloro-3-fluorophenyl)acetonitrile (1.81 g, 10.7 mmol) and 15-crown-5 (0.235 g, 1.07 mmol) in DMF (45 mL). The reaction mixture was warmed to room temperature and stirred for 35 minutes. The reaction mixture was then cooled to 0° C. NaI (1.60 g, 10.7 mmol) was added, and then a solution of freshly prepared tert-butyl bis(2-chloroethyl)carbamate (2.58 g, 10.7 mmol) in DMF (10 mL) was added by syringe. The reaction mixture was warmed to room temperature and stirred overnight (19 hours). The reaction mixture was poured into ice saturated NH4Cl, and the mixture was extracted with EtOAc. The combined extracts were dried (Na2SO4), filtered, and concentrated. The crude was flashed on silica (Biotage 40L, 9:1 hex:EtOAc until product eluted, then 6:1 hex:EtOAc to elute product) to give tert-butyl 4-(4-chloro-3-fluorophenyl)-4-cyanopiperidine-1-carboxylate (1.96 g, 54.2% yield) as a yellow oil. LC/MS (APCI+) m/z 239 [M−Boc+H]+.

reactant | NaH | 26.7 mmol, 1.07 g | [H-].[Na+]
reactant | 2-(4-chloro-3-fluorophenyl)acetonitrile | 10.7 mmol, 1.81 g | ClC1=C(C=C(C=C1)CC#N)F | C8H5ClFN
reactant | 15-crown-5 | 1.07 mmol, 0.235 g | C1COCCOCCOCCOCCO1 | C10H20O5
reactant | NaI | 10.7 mmol, 1.60 g | [Na+].[I-]
reactant | tert-butyl bis(2-chloroethyl)carbamate | 10.7 mmol, 2.58 g | ClCCN(C(OC(C)(C)C)=O)CCCl | C9H17Cl2NO2
solvent | DMF | 45 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | tert-butyl 4-(4-chloro-3-fluorophenyl)-4-cyanopiperidine-1-carboxylate | 1.96 g, 54.2% yield | ClC1=C(C=C(C=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)C#N)F | C17H20ClFN2O2
